US04401827
p-methoxy cinnamoyl carnitine hydrochloride
7.12 g (0.036 moles) of carnitine hydrochloride are dissolved in 12 mls of CF3COOH, and to the solution an excess (25 mls) of p-methoxy cinnamoyl chloride is added and the mixture kept under stirring at 40°-50° C. for 4-5 hours. At the end of this period of time the mixture is diluted with 90 mls of acetone and some ether is slowly added till complete precipitation. The mixture is filtered and the precipitate which has the tendency to become hygroscopic is quickly washed with ether and dried under vacuum at a temperature not exceeding 50° C; 9 g of a product are obtained (yield 70%) having the following characteristics:

reactant | carnitine hydrochloride | 0.036 moles, 7.12 g | Cl.OC(C[N+](C)(C)C)CC([O-])=O
reactant | p-methoxy cinnamoyl chloride | 25 mls | COC1=CC=C(C=CC(=O)Cl)C=C1 | C10H9ClO2
reactant | ether | CCOCC | C4H10O
solvent | CF3COOH | 12 mls | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetone | 90 mls | CC(=O)C | C3H6O
product | p-methoxy cinnamoyl carnitine hydrochloride | 9 g, yield 70% | Cl.COC1=CC=C(C=CC(=O)C(O)(C[N+](C)(C)C)CC([O-])=O)C=C1 | InChI=1S/C17H23NO5.ClH/c1-18(2,3)12-17(22,11-16(20)21)15(19)10-7-13-5-8-14(23-4)9-6-13;/h5-10,22H,11-12H2,1-4H3;1H
